US09290485B2
d) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-3-benzyl-1,2,4-oxadiazole-5-carboxamide
A mixture of (5-{[(3-Benzyl-[1,2,4]oxadiazole-5-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (65 mg, 0.09 mmol), 2 mL TFA and 4 mL DCM was stirred of room temperature for 1 h. The mixture was evaporated in vacuo and the residue was purified by prep HPLC (Macherey-Nagel Nucleosil 250×40 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min). Aq. NaHCO3-solution was added to the product containing fractions and after evaporation the aq. layer was extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated to give the title compound. 1H-NMR (DMSO-d6, 400 MHz) 9.43 (t, 1H), 7.25-7.36 (m, 5H), 6.10 (s, 1H), 5.70 (s, 2H), 4.35 (d, 2H), 4.18 (s, 2H), 2.29 (s, 3H), 2.16 (s, 3H); LCMS (method A) RtA=1.024 min; [M+H]+=338.0.

reactant | (5-{[(3-Benzyl-[1,2,4]oxadiazole-5-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.09 mmol, 65 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C1=NC(=NO1)CC1=CC=CC=C1)C)=O | C23H27N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-3-benzyl-1,2,4-oxadiazole-5-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C1=NC(=NO1)CC1=CC=CC=C1)C | C18H19N5O2
